US09212190B2
To (3R)-3-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraene (230 mg, 0.44 mmol, 1.00 equiv) dissolved in methanol (10 mL) was added hydrochloric acid (12 M, 0.5 mL) slowly at 0° C. The resulting solution was stirred for 2 hr at room temperature and then quenched with saturated aqueous sodium bicarbonate, extracted with 3×50 mL of ethyl acetate. The combined organic layers were concentrated under vacuum. The crude product (200 mg) was purified by preparative HPLC under the following conditions (SHIMADZU): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with 0.05% NH4HCO3 and CH3CN (25% CH3CN up to 100% in 15 min); flow rate: 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]ethan-1-ol (94 mg) as a white solid. MS (ES): m/z 404 [M+H]+. 1H NMR (400 MHz, CD3OD): δ 8.48 (1H, s), 5.29 (1H, m) 3.76 (4H, m), 3.66 (3H, m), 3.10-2.95 (2H, m), 2.72 (5H, m), 2.69 (1H, s), 2.41 (3H, m), 2.36 (1H, m), 2.15 (2H, m), 1.73-1.54 (5H, m).

reactant | (3R)-3-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraene | 0.44 mmol, 230 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1C=2C3=C(N=CN=C3SC2CC1)OC1CCC(CC1)N1CCOCC1 | C27H43N3O3SSi
reactant | hydrochloric acid | 12 M, 0.5 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]ethan-1-ol | 94 mg | N1(CCOCC1)C1CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)CCO | C21H29N3O3S
